US04609662
2-Amino-9-[(2-hydroxy-1-hydroxymethylethoxy)methyl]-9H-purine
A mixture of 0.844 g (1.88 mM) of 2-amino-9-[(2-benzoyloxyl-1-(benzoyloxymethyl)ethoxy)methyl]-9H-purine and 100 ml of a 40% aqueous methylamine solution was stirred at room temperature for 30 minutes. The mixture was flash evaporated to a yellow oil which was then washed with water. The aqueous layer was then extracted twice with methylene chloride. The aqueous layer containing the product was then flash evaporated to a light yellow oil. Recrystallization of the oil in hot acetonirile yielded the title compound as an analytically pure ivory solid, mpt. 148°-151°.

reactant | 2-amino-9-[(2-benzoyloxyl-1-(benzoyloxymethyl)ethoxy)methyl]-9H-purine | 1.88 mM, 0.844 g | NC1=NC=C2N=CN(C2=N1)COC(COC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C23H21N5O5
reactant | methylamine | CN | CH5N
product | 2-Amino-9-[(2-hydroxy-1-hydroxymethylethoxy)methyl]-9H-purine | NC1=NC=C2N=CN(C2=N1)COC(CO)CO | C9H13N5O3
